US07375114B2
a2. Preparation of N-((S)-oxiranylmethyl)methanesulfonamide
To a cold solution of methanesulfonamide (10 g, 0.105 mol) in water (100 mL) in an ice bath was added sodium hydroxide as pellets (8.4 g, 0.21 mol) and then (S)-2-chloromethyloxirane (12.4 g, 0.158 mol). The mixture was stirred at the same temperature for 2 h, and at room temperature for 12 h and then concentrated hydrochloric acid (18 mL) was added. The product was isolated by extracting the aqueous layer with dichloromethane (2×300 mL). The organic layer was dried over MgSO4 and then evaporated to dryness, yielding a colorless liquid (2.5 g), which was used directly in the next step.

reactant | methanesulfonamide | 0.105 mol, 10 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | (S)-2-chloromethyloxirane | 0.158 mol, 12.4 g | ClC[C@H]1OC1 | C3H5ClO
reactant | hydrochloric acid | 18 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
product | N-((S)-oxiranylmethyl)methanesulfonamide | 2.5 g | O1[C@H](C1)CNS(=O)(=O)C | C4H9NO3S
